US06248740B1
Production of 6-[3-[4-(diphenylmethyl)piperazino]propionamido][1,2,4]triazolo[1,5-b]pyridazine
6-(3-Chloropropionamido)[1,2,4]triazolo[1,5-b]pyridazine (339 mg) and 1-(diphenylmethyl)piperazine (379 mg) were dissolved in acetonitrile (15 ml), followed by addition of sodium iodide (447 mg) and potassium carbonate (249 mg). The mixture was stirred at room temperature for 15 hours and refluxed under heating for 8 hours. After the mixture was cooled, ice-water was added thereto, followed by extraction with ethyl acetate. The extract was washed with an aqueous sodium chloride saturated solution, dried over magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystalized from ethanol to yield the title compound (408 mg).

reactant | 6-(3-Chloropropionamido)[1,2,4]triazolo[1,5-b]pyridazine | 339 mg | ClCCC(=O)NC=1C=CC=2N(N1)N=CN2 | C8H8ClN5O
reactant | 1-(diphenylmethyl)piperazine | 379 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium iodide | 447 mg | [I-].[Na+]
reactant | potassium carbonate | 249 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 6-[3-[4-(diphenylmethyl)piperazino]propionamido][1,2,4]triazolo[1,5-b]pyridazine | 408 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCC(=O)NC=1C=CC=2N(N1)N=CN2)C2=CC=CC=C2 | C25H27N7O
